US05712284
8-[2-(3,4-Dimethoxyphenyl)ethyl]-8-aza-bicyclo[3.2.1]octan-3-one.
Following a general procedure previously described (P. Doster et al. Eur. I. Med. Chem. 1984, 19, 105), 8.2 g (62 mmol) 2,5-dimethoxytetrahydrofuran were heated at 80° C. in 75 ml of 0.1N aqueous HCl for 1 h. After cooling to 10° C., 10 g (68.4 mmol) acetone dicarboxylic acid, 12.4 g (68.5 mmol) 2-(3,4-dimethoxyphenyl)ethylamine, 6.13 g (74.7 mmol) sodium acetate and 5.7 ml 12N aqueous HCl were added wile stirring. Stirring was maintained overnight at room temperature. The aqueous mixture was neutralized and extracted with methylene chloride. The organic phase was washed with brine, dried over MgSO4 and concentrated. The filtrate was concentrated and the residual oil was purified by chromatography on silica gel using ethyl acetate as eluent, affording 12 g of an oil pure by TLC.

reactant | 2,5-dimethoxytetrahydrofuran | 62 mmol, 8.2 g | COC1OC(CC1)OC | C6H12O3
reactant | acetone dicarboxylic acid | 68.4 mmol, 10 g | CC(=O)C.C(=O)O.C(=O)O
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 68.5 mmol, 12.4 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | sodium acetate | 74.7 mmol, 6.13 g | C(C)(=O)[O-].[Na+]
solvent | HCl | 0.1N, 75 ml | Cl | ClH
solvent | HCl | 12N, 5.7 ml | Cl | ClH
product | 8-[2-(3,4-Dimethoxyphenyl)ethyl]-8-aza-bicyclo[3.2.1]octan-3-one | 12 g | COC=1C=C(C=CC1OC)CCN1C2CC(CC1CC2)=O | C17H23NO3
